US05215982
To a solution of 5-amino-4-methyl-1-[(E)-2-ethoxyvinyl]pyrazole (10.6 g) in tetrahydrofuran (212 ml) was added 4N hydrochloric acid, and the mixture was refluxed for 3 hours. The reaction mixture was adjusted to pH 8 under ice-cooling, thereto was added ethyl acetate (100 ml). The separated organic layer was dried over magnesium sulfate and evaporated in vacuo to give 7-methyl-1H-imidazo[1,2-b]pyrazole (6.92 g) as crystals. IR (Nujol) : 3100, 1620, 1500 cm-1

reactant | 5-amino-4-methyl-1-[(E)-2-ethoxyvinyl]pyrazole | 10.6 g | NC1=C(C=NN1\C=C\OCC)C | C8H13N3O
reactant | hydrochloric acid | 4N | Cl | ClH
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 212 ml | O1CCCC1 | C4H8O
product | 7-methyl-1H-imidazo[1,2-b]pyrazole | 6.92 g | CC1=C2N(N=C1)C=CN2 | C6H7N3
